************************************************************************
* Cdl Netlist:
* 
* Library Name:  Power_Amplifier
* Top Cell Name: PA9203
* View Name:     schematic
* Netlisted on:  Sep  9 08:45:02 2026
************************************************************************




************************************************************************
* Library Name: Power_Amplifier
* Cell Name:    PA_Core_V17
* View Name:    schematic
************************************************************************

.SUBCKT PA_Core_V17 RFin RFout VCAS VEE
*.PININFO RFin:B RFout:B VCAS:B VEE:B
QQ1 RFout VCAS net1 VEE npn13G2 m=1 le=900.0n we=70.00n Nx=10 Ny=1
QQ0 net1 RFin VEE VEE npn13G2 m=1 le=900.0n we=70.00n Nx=10 Ny=1
.ENDS


************************************************************************
************************************************************************
* Library Name: Power_Amplifier
* Cell Name:    Cap_Array_V6
* View Name:    schematic
************************************************************************

.SUBCKT Cap_Array_V6 RFin RFout
*.PININFO RFin:B RFout:B
RR1 net3 RFout res_topmetal2 r=1u width=11.8u length=2.0u layer=TopMetal2
RR0 RFin net3 res_topmetal2 r=1u width=11.8u length=2.0u layer=TopMetal2
.ENDS



************************************************************************
************************************************************************
* Library Name: Power_Amplifier
* Cell Name:    Cap_100f_F
* View Name:    schematic
************************************************************************

.SUBCKT Cap_100f_F RFin RFout
*.PININFO RFin:B RFout:B
RR1 net04 RFout res_metal5  r=1u width=11.75u length=1.0u layer=Metal5
RR0 RFin net2 res_metal5  r=1u width=11.75u length=1.0u layer=Metal5
.ENDS



************************************************************************
************************************************************************
* Library Name: Power_Amplifier
* Cell Name:    INPUT_Match
* View Name:    schematic
************************************************************************

.SUBCKT INPUT_Match RFcoreIN RFin VBias
*.PININFO RFcoreIN:B RFin:B VBias:B
RR5 net01 net04 res_topmetal2 r=1u width=23u length=2.0u layer=TopMetal2
RR4 net01 VBias res_topmetal2 r=1u width=11.8u length=2.0u layer=TopMetal2
RR3 RFcoreIN net01 res_topmetal2 r=1u width=11.8u length=2.0u layer=TopMetal2
RR2 net4 RFin res_topmetal2 r=1u width=5u length=2.0u layer=TopMetal2
RR1 net4 net7 res_topmetal2 r=1u width=23u length=2.0u layer=TopMetal2
RR0 net06 net4 res_topmetal2 r=1u width=23u length=2.0u layer=TopMetal2
XC0 net06 net04 / Cap_100f_F
.ENDS



************************************************************************
************************************************************************
* Library Name: Power_Amplifier
* Cell Name:    Cap_30f_F
* View Name:    schematic
************************************************************************

.SUBCKT Cap_30f_F RFin RFout
*.PININFO RFin:B RFout:B
RR1 net04 RFout res_metal5 r=1u width=11.75u length=1.0u layer=Metal5
RR0 RFin net2 res_metal5 r=1u width=11.75u length=1.0u layer=Metal5
.ENDS



************************************************************************
************************************************************************
* Library Name: Power_Amplifier
* Cell Name:    OUTPUT_Match
* View Name:    schematic
************************************************************************

.SUBCKT OUTPUT_Match RFcoreOUT RFout VCC VEE
*.PININFO RFcoreOUT:B RFout:B VCC:B VEE:B
RR5 VEE net6 res_topmetal2 r=1u width=23u length=2.0u layer=TopMetal2
RR4 net6 RFout res_topmetal2 r=1u width=23u length=2.0u layer=TopMetal2
RR3 net7 net6 res_topmetal2 r=1u width=23u length=2.0u layer=TopMetal2
RR2 VCC net5 res_topmetal2 r=1u width=11.8u length=2.0u layer=TopMetal2
RR1 net5 net8 res_topmetal2 r=1u width=5u length=2.0u layer=TopMetal2
RR0 RFcoreOUT net5 res_topmetal2 r=1u width=11.8u length=2.0u layer=TopMetal2
XC0 net8 net7 / Cap_30f_F
.ENDS



************************************************************************
************************************************************************
* Library Name: Power_Amplifier
* Cell Name:    PA_V2_Top
* View Name:    schematic
************************************************************************

.SUBCKT PA_V2_Top RFin RFout VBias VCAS VCC VEE
*.PININFO RFin:B RFout:B VBias:B VCAS:B VCC:B VEE:B
XI2 net7 net8 net09 VEE / PA_Core_V17
XI5 net01 VCC / Cap_Array_V6
XI4 net03 VCAS / Cap_Array_V6
XI3 net02 net07 / Cap_Array_V6
XI0 net7 RFin net02 / INPUT_Match
XI1 net8 RFout net01 VEE / OUTPUT_Match
RR1 VBias net07 VEE rppd m=1 l=8.8u w=11.8u ps=0 
+ trise=0.0 b=0
RR0 net09 net03 VEE rppd m=1 l=8.8u w=11.8u ps=0
+ trise=0.0 b=0
.ENDS



************************************************************************
************************************************************************
* Library Name: Power_Amplifier
* Cell Name:    PA9203
* View Name:    schematic
************************************************************************

.SUBCKT PA9203 RFin RFout VBias VCAS VCC VEE
*.PININFO RFin:B RFout:B VBias:B VCAS:B VCC:B VEE:B
XI0 RFin RFout VBias VCAS VCC VEE / PA_V2_Top
.ENDS

